US08470841B2
59c N—{(S)-2-[4-(4-Benzyloxyphenoxy)phenoxy]-1-methylethyl}acetamide
(S)-2-[4-(4-Benzyloxyphenoxy)phenoxy]-1-methylethylamine (195 mg, 0.56 mmol) was reacted with acetic anhydride in analogy to example 2a. Yield: 218 mg (100%), M+H+: 392.18.

reactant | (S)-2-[4-(4-Benzyloxyphenoxy)phenoxy]-1-methylethylamine | 0.56 mmol, 195 mg | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC=C(OC[C@H](C)N)C=C2)C=C1 | C22H23NO3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N—{(S)-2-[4-(4-Benzyloxyphenoxy)phenoxy]-1-methylethyl}acetamide | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC=C(OC[C@H](C)NC(C)=O)C=C2)C=C1 | C24H25NO4
